US06458798B1
Ethyl-2-[(2-Amino-5,6,7,8-tetrahydroquinazoline-4-yl)amino]acetate
To a mixture of 4-chloro-5,6,7,8-tetrahydroquinazoline-2-ylamine (100 mg, 0.545 mmol), triethylamine (221 mg, 2.18 mmol) and butanol (3 ml) was added glycine ethyl ester hydrochloride (152 mg, 100 mmol) at room temperature. After the mixture was stirred for 4 hours at 90° C., the reaction mixture was poured into water and extracted with chloroform. The organic layer was washed with saturated brine, dried over sodium sulfate, filtered and the solvent in the filtrate was removed in vacuo. The residue was purified by silica gel chromatography (3% MeOH/CHCl3) to give the object compound (98.3 mg, 72.1%).

reactant | 4-chloro-5,6,7,8-tetrahydroquinazoline-2-ylamine | 0.545 mmol, 100 mg | ClC1=NC(=NC=2CCCCC12)N | C8H10ClN3
reactant | triethylamine | 2.18 mmol, 221 mg | C(C)N(CC)CC | C6H15N
reactant | butanol | 3 ml | C(CCC)O | C4H10O
reactant | glycine ethyl ester hydrochloride | 100 mmol, 152 mg | Cl.C(C)OC(CN)=O
solvent | water | O | H2O
product | Ethyl-2-[(2-Amino-5,6,7,8-tetrahydroquinazoline-4-yl)amino]acetate | 98.3 mg, 72.1% | C(C)OC(CNC1=NC(=NC=2CCCCC12)N)=O | C12H18N4O2
